US08710044B2
The mixture of (2S)-2-[(tert-butoxycarbonyl)amino]-2-phenylethyl 4-methylbenzenesulfonate (350 mg, 0.9 mmol, 1.0 eq.) and sodium azide (117 mg, 1.8 mmol, 2.0 eq.) in N,N-dimethylformamide (5 ml) was stirred at 65° C. overnight. The mixture was cooled to room temperature and diluted with water and ethyl acetate. The organic layer was separated and washed with brine, dried, and concentrated to afford tert-butyl [(1S)-2-azido-1-phenylethyl]carbamate in 90% yield.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-2-phenylethyl 4-methylbenzenesulfonate | 0.9 mmol, 350 mg, 1.0 eq. | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](C1=CC=CC=C1)NC(=O)OC(C)(C)C | C20H25NO5S
reactant | sodium azide | 1.8 mmol, 117 mg, 2.0 eq. | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [(1S)-2-azido-1-phenylethyl]carbamate | 90% yield | N(=[N+]=[N-])C[C@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O | C13H18N4O2
